US06713632B1
THF (14 ml) was added to magnesium (0.55 g, 22.4 mmol) under a nitrogen atmosphere. Iodine (3 mg) was added and the mixture was stirred. While keeping the mixture at not higher than 50° C., a solution of 2-bromo-6-methoxynaphthalene (5.15 g, 21.7 mmol.) in THF (12 ml) was added dropwise, and the mixture was stirred at 15 to 25° C. for 1.5 h. A solution of 1-(1H-imidazol-4-yl)-2-methyl-1-propanone (1 g, 7.24 mmol) in THF (5 ml) was added dropwise at −20° C., and the mixture was stirred at 15 to 25° C. for 8 h. A saturated aqueous sodium hydrogencarbonate (5 ml) and water (5 ml) were successively added dropwise. After stirring, the mixture was passed through celite. After partitioning, the aqueous layer was extracted with ethyl acetate (5 ml). The organic layer was combined, and the mixture was washed with saturated brine and concentrated under reduced pressure. The concentration residue was broken up with ethyl acetate (6 ml) and isopropyl ether (12 ml), and the crystals were collected by filtration and washed with isopropyl ether (12 ml). The crystals were dried in vacuo (40° C.) to give 1-(1H-imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2-methylpropanol (1.8 g, yield 84%).

reactant | magnesium | 22.4 mmol, 0.55 g | [Mg] | Mg
reactant | 2-bromo-6-methoxynaphthalene | 21.7 mmol, 5.15 g | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | 1-(1H-imidazol-4-yl)-2-methyl-1-propanone | 7.24 mmol, 1 g | N1C=NC(=C1)C(C(C)C)=O | C7H10N2O
reactant | sodium hydrogencarbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | THF | 12 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | Iodine | 3 mg | II | I2
solvent | THF | 14 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 1-(1H-imidazol-4-yl)-1-(6-methoxynaphthalen-2-yl)-2-methylpropanol | 1.8 g, yield 84% | N1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC=C(C=C2C=C1)OC | C18H20N2O2
